US04182790
N-(α-methylpentyl,α-methyl-hexyl)acrylamide
Following a procedure analogous to that of Example 1, treat acrylonitrile with a mixture of 1-hexene and 1-heptene in the presence of 83% sulfuric acid and phenothiazine to obtain the title product.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 1-hexene | C=CCCCC | C6H12
reactant | 1-heptene | C=CCCCCC | C7H14
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | N-(α-methylpentyl,α-methyl-hexyl)acrylamide | CC(CCCC)C(CCCCC)(C)NC(C=C)=O | C16H31NO
